US04882085
After the p-acetyloxybiphenylcarboxylic acid (2-pentyloxy)propyl ester was diluted with 50 ml of methanol, a mixture of methanol: NH4OH (28%)=1:1 was added under stirring to carry out hydrolysis. Then, the rection mixture was extracted with anhydrous sodium sulfate (×3), the ether layer was washed with 50 ml of water (×3) and dried over anhydrous sodium sulfate, followed by evaporation of the solvent to obtain an oily product. The product was purified by silica gel chromatography to obtain 2.6 g of p-hydroxybiphenylcarboxylic acid (2-pentyloxy)propyl ester.

reactant | p-acetyloxybiphenylcarboxylic acid (2-pentyloxy)propyl ester | CC(CCC)OCCCOC(=O)C=1C(=CC=C(C1)OC(C)=O)C1=CC=CC=C1 | C23H28O5
reactant | NH4OH | [NH4+].[OH-]
solvent | methanol | 50 ml | CO | CH4O
product | p-hydroxybiphenylcarboxylic acid (2-pentyloxy)propyl ester | 2.6 g | CC(CCC)OCCCOC(=O)C=1C(=CC=C(C1)O)C1=CC=CC=C1 | C21H26O4
